US07968720B2
(4-Chloro-3-formyl-benzyl)-carbamic Acid Methyl Ester
MnO2 (6.68 g, 76.9 mmol) was added to a sol. of (4-chloro-3-hydroxymethyl-benzyl)-carbamic acid methyl ester (3.53 g, 15.4 mmol) in CH3CN (300 mL). The mixture was stirred at rt for 3 h, and MnO2 (2.67 g, 30.7 mmol) was added again. The mixture was stirred for 1 h, and MnO2 (1.34 g, 15.4 mmol) was added again. The mixture was stirred for 2 h, and was filtered through celite. The precipitate was washed with CH2Cl2, and the filtrate was evaporated under reduced pressure. Drying the residue under high vacuum yielded the crude title compound (3.22 g, 92%) that was used further without purification.

reactant | (4-chloro-3-hydroxymethyl-benzyl)-carbamic acid methyl ester | 15.4 mmol, 3.53 g | COC(NCC1=CC(=C(C=C1)Cl)CO)=O | C10H12ClNO3
solvent | CH3CN | 300 mL | CC#N | C2H3N
catalyst | MnO2 | 76.9 mmol, 6.68 g | O=[Mn]=O
catalyst | MnO2 | 30.7 mmol, 2.67 g | O=[Mn]=O
catalyst | MnO2 | 15.4 mmol, 1.34 g | O=[Mn]=O
product | (4-Chloro-3-formyl-benzyl)-carbamic Acid Methyl Ester | 3.22 g, 92% | COC(NCC1=CC(=C(C=C1)Cl)C=O)=O | C10H10ClNO3
